US05837704
5,11-Dihydro-11-ethyl-5-methyl-2-(3-methylpyrazol-4-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound (mp 113°-115° C.) was prepared from 5,11-dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 3-methyl-4-(tributylstannyl)pyrazole in a manner analogous to that described in Example 1.

reactant | 5,11-dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OS(=O)(=O)C(F)(F)F | C15H13F3N4O4S
reactant | 3-methyl-4-(tributylstannyl)pyrazole | CC1=NNC=C1[Sn](CCCC)(CCCC)CCCC
product | 5,11-Dihydro-11-ethyl-5-methyl-2-(3-methylpyrazol-4-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)C=2C(=NNC2)C | C18H18N6O
